US08895582B2
To a solution of (S)-tert-butyl 4-(4-(benzyloxycarbonylamino)-5-(tert-butyldimethylsilyloxy)pentanoyl)piperazine-1-carboxylate (32.3 g, 58.8 mmol) and iodomethane (7.3 mL, 117.6 mmol) in DMF (450 mL) was added solid sodium hydride (60%, 3.5 g, 88.2 mmol) at 0-5° C. The mixture was stirred at 0-5° C. for 30 min and quenched with saturated NH4Cl solution. The mixture was concentrated to remove most of DMF under high vacuum. The residue was dissolved in EtOAc (700 mL). The organic mixture was washed with water and brine, dried over Na2SO4, filtered, and concentrated to give (S)-tert-butyl 4-(4-((benzyloxycarbonyl)(methyl)amino)-5-(tert-butyldimethylsilyloxy)pentanoyl)piperazine-1-carboxylate (34 g, crude), which was used without further purification. LRMS (M+H) m/z 564.3.

reactant | (S)-tert-butyl 4-(4-(benzyloxycarbonylamino)-5-(tert-butyldimethylsilyloxy)pentanoyl)piperazine-1-carboxylate | 58.8 mmol, 32.3 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCC(=O)N1CCN(CC1)C(=O)OC(C)(C)C)CO[Si](C)(C)C(C)(C)C | C28H47N3O6Si
reactant | iodomethane | 117.6 mmol, 7.3 mL | IC | CH3I
reactant | sodium hydride | 88.2 mmol, 3.5 g | [H-].[Na+]
solvent | DMF | 450 mL | CN(C)C=O | C3H7NO
product | (S)-tert-butyl 4-(4-((benzyloxycarbonyl)(methyl)amino)-5-(tert-butyldimethylsilyloxy)pentanoyl)piperazine-1-carboxylate | 34 g | C(C1=CC=CC=C1)OC(=O)N([C@@H](CCC(=O)N1CCN(CC1)C(=O)OC(C)(C)C)CO[Si](C)(C)C(C)(C)C)C | C29H49N3O6Si
